US04914104
(i) N-(2-thenoyl)glycine ethyl ester
To a solution of glycine ethyl ester hydrochloride (22 g) and potassium carbonate (86 g) in water (600 ml) was added a mixture of benzene (600 ml) and ether (400 ml) and stirred at room temperature. 2-Thenoyl chloride (25 g) in benzene (100 ml) was added during a period of about 30 minutes under stirring and then the mixture was stirred for 2 hours at room temperature. The organic layer was separated and after dried over anhydrous sodium sulfate, concentrated under reduced pressure to give colorless crystals, which were recrystallized from ethanol to obtain the objective compound (23 g), mp 82°-83° C.

reactant | glycine ethyl ester hydrochloride | 22 g | Cl.C(C)OC(CN)=O
reactant | potassium carbonate | 86 g | C([O-])([O-])=O.[K+].[K+]
reactant | ether | 400 ml | CCOCC | C4H10O
reactant | 2-Thenoyl chloride | 25 g | C1(=CC=CS1)C(=O)Cl | C5H3ClOS
solvent | water | 600 ml | O | H2O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 600 ml | C1=CC=CC=C1 | C6H6
product | N-(2-thenoyl)glycine ethyl ester | 23 g | C(C)OC(CNC(C1=CC=CS1)=O)=O | C9H11NO3S
